US04833164
2-(2-Propenyl)-1-t-butyldimethylsilyloxynaphthalene
A mixture of 2-(2-propenyl)-1-naphthol (Example 118 Part A; 101.9 g, 0.550 mole), t-butyldimethylsilyl chloride (100.0 g, 0.660 mole), and imidazole (93.6 g, 1.375 mole) in N,N'-dimethylformamide was stirred at room temperature for 6.5 hours. It was then poured into saturated aqueous sodium bicarbonate, and the crude product isolated by extraction with hexane. The residue was distilled at reduced pressure to provide the title compound (155.2 g, 95%), bp 135°-140° (0.1 torr).

reactant | 2-(2-propenyl)-1-naphthol | C(C=C)C1=C(C2=CC=CC=C2C=C1)O | C13H12O
reactant | t-butyldimethylsilyl chloride | 0.660 mole, 100.0 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 1.375 mole, 93.6 g | N1C=NC=C1 | C3H4N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N'-dimethylformamide | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | 2-(2-Propenyl)-1-t-butyldimethylsilyloxynaphthalene | 155.2 g, 95% | C(C=C)C1=C(C2=CC=CC=C2C=C1)O[Si](C)(C)C(C)(C)C | C19H26OSi
